US05698552
Then, at 20° C., 18.3 g (0.12 mol) of hydroxybenzotriazole (HOBT), 23.7 g (0.109 mol) of N-4-trifluoromethylbenzyl-N-n-propylamine and 25.6 g (0.125 mol) of dicyclohexyl-carbodiimide (DCCI) and a further 250 ml of dimethylformamide (DMF) were added. The mixture was left to react for 24 hours. It was then cooled to 5° C. and filtered. 500 ml of water were added to the filtrate and it was extracted with ethyl acetate. The combined organic phases were washed with water and saturated sodium hydrogen carbonate solution, dried with magnesium sulphate and filtered over kieselguhr/char-coal. After working up in the usual way, 50 g of colourless crystals of the title compound are obtained by crystallisation from ethanol/diisopropylether (1:1). The 3H-PAF-receptor bonding--determined using human thrombocytes--is Ki =1.8 nMol/liter. (The method used is described for example in European Patent Application 368 175).

reactant | hydroxybenzotriazole | 0.12 mol, 18.3 g | OC1=CC=CC=2NN=NC21 | C6H5N3O
reactant | dicyclohexyl-carbodiimide | 0.125 mol, 25.6 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | dimethylformamide | 250 ml | CN(C=O)C | C3H7NO
product | ethanol diisopropylether | C(C)O.C(C)(C)OC(C)C | InChI=1S/C6H14O.C2H6O/c1-5(2)7-6(3)4;1-2-3/h5-6H,1-4H3;3H,2H2,1H3
